data/mechanism_extracts/JACS/10.1021_jacs.3c06794.json
{"doi": "10.1021_jacs.3c06794", "journal": "JACS", "is_review": false, "rxn_class_summary": "electrochemical three-component cross-electrophile dialkylation of alkenes with tertiary and primary alkyl bromides via radical-polar crossover under sacrificial Mg anode conditions", "mechanism_family": ["radical_polar_crossover", "radical_cathodic", "sacrificial_anode", "direct_SET"], "electrochemical_role": "Cathodic reduction selectively reduces the more easily reduced tertiary alkyl bromide to a tertiary alkyl radical; after radical addition to the alkene, the resulting stabilized benzylic/α-boryl radical is further reduced at the cathode to a carbanion. The Mg sacrificial anode is oxidized to Mg2+ to balance charge.", "key_intermediates": [{"name": "tertiary alkyl radical (e.g., tert-butyl radical) from cathodic reduction of tertiary alkyl bromide", "smiles": "[CH0]([CH3])([CH3])[CH3]", "role": "reactive"}, {"name": "benzylic/α-boryl radical adduct after tertiary radical addition to alkene (intermediate E)", "smiles": null, "role": "transient"}, {"name": "stabilized benzylic/α-boryl carbanion (intermediate F) from second cathodic reduction", "smiles": null, "role": "reactive"}, {"name": "primary alkyl bromide electrophile (e.g., 1-bromo-3-chloropropane) attacked by carbanion via SN2", "smiles": "BrCCCCl", "role": "reactive"}, {"name": "Mg2+ from sacrificial anode (forms MgBr2/Mg(ClO4)2 passivation layer in THF)", "smiles": "[Mg+2]", "role": "off_pathway"}], "electron_flow": "At the cathode, the less-negative-potential tertiary alkyl bromide is reduced first to a tertiary alkyl radical, which adds to the radical-acceptor alkene; the resulting stabilized radical undergoes a second cathodic reduction (radical-polar crossover) to a carbanion that performs SN2 on the sterically accessible primary alkyl bromide, while the Mg anode is sacrificially oxidized.", "rate_determining_step": null, "probe_reagents": [{"name": "vinylcyclopropane radical clock (substrate 59, Ph-cyclopropyl-vinyl)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened dialkylation product 60 obtained in 18% yield (7:1 E/Z), supporting intermediacy of carbon radical E after tert-butyl radical addition"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "intermediate_trap", "observation": "Addition of D2O (5 equiv) under standard conditions gave deuteroalkylation product 61 (8% NMR yield) with 82% D incorporation at the benzylic position, supporting carbanion intermediate F"}, {"name": "cyclic voltammetry of tBuBr vs n-alkyl bromide", "smiles": null, "purpose": "redox_probe", "observation": "tBuBr Ep/2 = -2.77 V vs Fc+/0; primary alkyl bromide 3 Ep/2 = -3.00 V vs Fc+/0 (0.23 V more difficult), rationalizing selective reduction of the tertiary halide"}, {"name": "chlorotrimethylsilane CV", "smiles": "Cl[Si](C)(C)C", "purpose": "redox_probe", "observation": "Onset potential < -3 V vs Fc+/0; too hard to reduce, so chlorosilanes act as electrophiles trapping the carbanion rather than as radical precursors"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "cyclic_voltammetry", "DFT", "intermediate_trap_other"], "evidence_strength": "strong", "notes": "DFT supports facile tert-butyl radical addition to styrene/vinyl boronate (ΔG‡ ≈ 12.1–12.6 kcal/mol) and accessible SN2 of carbanion F on primary bromide (ΔG‡ ≈ 14.2–14.5 kcal/mol); computed E° of tert-butyl radical is -3.54 V vs Fc+/0 (too negative to reduce directly), whereas the stabilized benzylic/α-boryl radical E reduces at -2.63 to -2.80 V, explaining why an anion/radical-stabilizing Z group on the alkene is essential for radical-polar crossover. Solvent choice (DME vs THF) is critical: DME dissolves Mg salts and suppresses anode passivation observed in THF, raising yield from 8% to 79–80%. Deuteration via H-atom transfer from D2O to radical E is ruled out on BDE grounds (O-D 118.3 vs C-D 89.3 kcal/mol), favoring protonation of carbanion F."}
